US07087599B2
A solution of 9a-butyl-7-methoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (76 mg, 0.267 mmol) in anhydrous CH2Cl2 (2 mL) was placed under a nitrogen atmosphere, cooled in an ice bath, and stirred while 1M BBr3 in CH2Cl2 (0.80 mL, 0.80 mmol) was added by syringe. The cooling bath was removed and the mixture was stirred at room temperature for 2 hours. The mixture was partitioned between EtOAc (20 mL) and water (20 mL) containing 2N HCl (2 mL). The organic phase was washed with brine (10 mL), dried over MgSO4, filtered, and evaporated under vacuum to an oil. This material was purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate using 5% MeOH in CH2Cl2 as the developing solvent. The product band was eluted with 10% MeOH in CH2Cl2 and the eluant evaporated under vacuum to give an oil which was lyophilized from benzene to afford 9a-butyl-7-hydroxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an amorphous solid.

reactant | 9a-butyl-7-methoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.267 mmol, 76 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C)OC | C19H24O2
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.80 mmol, 0.80 mL | C(Cl)Cl | CH2Cl2
product | 9a-butyl-7-hydroxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C)O | C18H22O2
